US07645789B2
N-(7-(Aminomethyl)-2-tert-butyl-1H-indol-5-yl)-1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide (20 mg, 0.049 mmol) was dissolved in DMF (0.5 mL) containing triethylamine (20.6 μL, 0.147 mmol) and a magnetic stir bar. Acetyl chloride (4.2 μL, 0.054 mmol) was then added to the reaction mixture. The reaction mixture was allowed to stir for 16 h at room temperature. The crude product was purified by preparative HPLC using a gradient of 0-99% acetonitrile in water containing 0.05% trifluoroacetic acid to yield N-(7-(acetamidomethyl)-2-tert-butyl-1H-indol-5-yl)-1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide. ESI-MS m/z calc. 447.2, found 448.3 (M+1)+. Retention time of 1.76 minutes.

reactant | N-(7-(Aminomethyl)-2-tert-butyl-1H-indol-5-yl)-1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | 0.049 mmol, 20 mg | NCC=1C=C(C=C2C=C(NC12)C(C)(C)C)NC(=O)C1(CC1)C1=CC2=C(OCO2)C=C1 | C24H27N3O3
reactant | triethylamine | 0.147 mmol, 20.6 μL | C(C)N(CC)CC | C6H15N
reactant | Acetyl chloride | 0.054 mmol, 4.2 μL | C(C)(=O)Cl | C2H3ClO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | N-(7-(acetamidomethyl)-2-tert-butyl-1H-indol-5-yl)-1-(benzo[d][1,3]dioxol-5-yl)cyclopropanecarboxamide | C(C)(=O)NCC=1C=C(C=C2C=C(NC12)C(C)(C)C)NC(=O)C1(CC1)C1=CC2=C(OCO2)C=C1 | C26H29N3O4
